2192-06-24 07:23:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 BLOOD CULTURED - At [**2192-6-24**] 05:08 AM
   Pt still requires high-flow face mask and 6L NC
   Schedule echo for today to rule out shunt.
   Blood Cx: Group B Strept
   [**2192-6-24**] 0500 ABG: 7.41/ 48/65/31
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-6-24**] 12:09 AM
   Hydromorphone (Dilaudid) - [**2192-6-24**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-6-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 83 (79 - 99) bpm
   BP: 101/60(69) {101/60(69) - 139/84(95)} mmHg
   RR: 24 (19 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,860 mL
                                                                    224 mL
   PO:
                                                                    750 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,110 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    600 mL
   Urine:
                                                                    925 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    935 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 97%
   ABG: 7.41/48/65/27/4
   PaO2 / FiO2: 65
   Physical Examination
   Gen: NAD, breathing comfortably on facemask
   CV: RRR, no M/R/G
   Lungs: decreased breath sounds  at bases, mild labored breathing
   Abd: distended, mild R lateral tenderness coinciding with back pain,
   +bs
   Ext: warm, dry, 2+ distal pulses
   Labs / Radiology
   288 K/uL
   9.4 g/dL
   124 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   29.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
   WBC
   10.7
   11.1
   Hct
   30.4
   30
   29.6
   Plt
   286
   288
   Cr
   0.7
   0.7
   0.7
   TCO2
   34
   34
   31
   31
   Glucose
   139
   127
   148
   124
   Other labs: PT / PTT / INR:13.6/28.7/1.2, CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.3 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   [**2192-6-23**] Blood cx: G+ cocci in pairs and chains (Group B Strept)
   [**2192-6-23**] Urine cx: pending
   [**2192-6-23**] CTA:  no PE or dissection.  Patchy multifocal airspace opacity,
   worse in RLL, most consistent with infection mild pulmonary edema.
   Assessment and Plan
   [**Known firstname 203**] [**Known lastname 201**] is a 53 yo woman with h/o HTN who presents with back pain,
   SOB and fever who was found to have pneumonia on CT scan.  Patient has
   high O2 requirement but fairly stable.
   # Hypoxia:  The CTA of her chest was negative for PE, but did show
   likely PNA.  PNA is the most likely cause of her fever and hypoxia. She
   has also had significant pain and may have a significant amount of
   atelectasis from splinting.
   -repeat ABG.
   -will support resp status with oxygen -- currently mantaining SpO2 > 92
   on 6L NC; consider BiPAP if patient requiring more O2, low threshold
   for intubation
   -titrate O2 to keep sats >90%
   -fup on final CT read.
   .
   # PNA:  Most likely cause for hypoxia and back pain.  No hx of PNA.
   -[**2192-6-23**]  Blood cx: Group B Strept.
   - Will d/c ceftriaxone and azithromycin, will continue levoquin for
   atypical coverage
   - Start Penicillin G [**2-7**] million units q4h IV x 10 days.
   -  Order PICC line for ten days of treatment
   - supplement O2.
   # Pain: The patient's back pain is most likely r/t her pneumonia.  it
   is located in an area consistent with that picture and she does seem to
   have evidence of diaphragmatic irritation.  The CT was neg for
   Dissection.  The pain radiates around to the RUQ -- there is some
   concern for a cholecystitis.  We were also concerned about kidney
   stones but her U/A is negative x2. Other possibilities include epidural
   abscess -- does not appear to be present on CT and no neurological
   deficits.
   - Perform RUQ U/S if pain persists.
   -tylenol & hydromorphone PRN.
   .
   # Hypertension - good bp here.
   continue on home medications.  patient typically takes q afternoon.
   -atenolol, HCTZ, lisinopril, nifedipine
   # Anemia - chronic
   -consider adding Fe for long term management.  patient constipated
   currently so hold off for now.
   # FEN:
   -regular diet after obtaining ABG
   -low K -- replete PRN.
   .
   # Prophylaxis: increase bowel regimen, Hep SQ, recheck glucose and
   consider ISS.
   # Access: 1 PIV - obtain PICC line
   # Code Status: Full Code
   # Contact: Daughter [**Name (NI) 204**] [**Telephone/Fax (1) 205**]
   # Dispo: ICU for now.  Requiring high O2.  may require bipap/intubation
   if deteriorates
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-6-23**] 05:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-06-24 10:48:00 Physician Attending Progress Note
Chief Complaint: hypoxia, fevers, multi focal pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo F with htn admitted with pna (fevers, hypoxia, back pain)
   24 Hour Events:
 BLOOD CULTURED - At [**2192-6-24**] 05:08 AM
 + for GPC in pairs and
   chains
   large A-a gradient on abgs
   BP stable
      hctz held [**1-7**] hypoKalemia
      nifedipime held--? Contributing to shunt
   History obtained from Patient, HO
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-6-24**] 12:09 AM
   Hydromorphone (Dilaudid) - [**2192-6-24**] 02:44 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-6-24**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 83 (79 - 99) bpm
   BP: 101/60(69) {101/60(69) - 139/84(95)} mmHg
   RR: 24 (19 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,860 mL
                                                                    253 mL
   PO:
                                                                    750 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,110 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    600 mL
   Urine:
                                                                    925 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    935 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 97% 6L + face tent)
   ABG: 7.41/48/65/27/4
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Diminished: bases,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   288 K/uL
   124 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.3 mEq/L
   9 mg/dL
   101 mEq/L
   136 mEq/L
   29.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
   WBC
   10.7
   11.1
   Hct
   30.4
   30
   29.6
   Plt
   286
   288
   Cr
   0.7
   0.7
   0.7
   TCO2
   34
   34
   31
   31
   Glucose
   139
   127
   148
   124
   Other labs: PT / PTT / INR:13.6/28.7/1.2, CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.3 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Fluid analysis / Other labs: lactate 1.3
   Imaging: CXR--patchy ASD, full hilum, no effusions
   Microbiology: bl [**3-9**] bl + GPC pairs and chains
   urine ngtd
   Assessment and Plan
   53 yo obese  F with htn, iron-def anemia and chronic hypokalemia
   presents with back pain, sob, hypoxia, and fever.
   --CTA neg for dissection or PE but identified multi-focal pna likely
   cause of presenting sx
s, now with GPC in blood most concerning for
   strep pneumo
   --Overall feels improved since admission, but still with high O2
   requirement. and ongoing back pain contributing to splinting
   # hypoxia/resp distress
   # CAP
   Degree of hypoxia seems OOP to imaging findings though this may be [**1-7**]
   v/q mismatch chronic obesity and
        atelectais/splinting in addition to infiltrate, ? of shunt
   physiology
   multi-focal pna on CT chest
   -change coverage to levo/ctx pending sensitivies, bl cx concerning for
   strep pneumo
   -consider NVPPV as this may help with volumes and oxygenation
   -order TTE with bubble to assess shunt/PFO
   # Fever--likely all related to PNA, remains AF since admit
    f/u cx data/[**Last Name (un) 206**], antibx as above
   # Back pain
given ct findings, does seem likely from diapragmatic
   irritation from infiltrate/pleurisy, no evidence of dissection or PE
   pain control with hydromorphone, gentle valium, lido patch, nsaid for ?
   inflammatory component from pleurisy
   # htn--well controlled
   Hold hctz as this may contribute to low K
   # hypokalemia
chronic condition (? Hypoald)
   Holding hctz
   Replete as needed
   #liver lesions on ct
lfts wnl
   -check ruq ultrasound
   ICU Care
   Nutrition: Po diet, if resp status decline keep NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-6-23**] 05:[**Street Address(2) 212**] second IV
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, remains tenuous from resp standpoint
   Total time spent: 40 minutes
   Patient is critically ill

2192-06-25 06:50:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   [**Known firstname 203**] [**Known lastname 201**] is a 53 yo woman with h/o HTN who presents with back pain,
   SOB and fever who was found to have pneumonia on CT scan.  Patient has
   high O2 requirement but fairly stable.
   24 Hour Events:
   Growing out Group B Strep.  Abx changed to penicillin G and
   levofloxacin.
   ABG done last  night
                                     pH
                                    7.45
                                    pCO2
                                     45
                                     pO2
                                     54
                                    HCO3
                                     32
                                   BaseXS
                                      6
   One from earlier in the day
                                     pH
                                    7.41
                                    pCO2
                                     48
                                     pO2
                                     65
                                    HCO3
                                     31
                                   BaseXS
                                      4
   Subjective:
   Pain well controlled.  She denies fever chills.  Patients states that
   breathing is improved.  Patient is constipated and reports having
   abdominal cramps in response to increased bowel regimen.
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-6-24**] 08:00 AM
   Penicillin G potassium - [**2192-6-25**] 12:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-6-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-6-25**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 70 (68 - 91) bpm
   BP: 125/79(90) {104/60(34) - 140/87(99)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,450 mL
                                                                    357 mL
   PO:
                                                                  1,110 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    375 mL
   Urine:
                                                                  1,200 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 99%
   ABG: 7.45/45/54/31/6
   PaO2 / FiO2: 77
   Physical Examination
   Gen: a&o x3, breathing comfortably, speaking in full sentences on 6 L
   Lungs: Crackles in right base.
   CV: RRR, s1 & s2 nl, no m/r/g.
   Abd: + bs, nd, obese, mild tender to palpation in RUQ, no rebound, no
   guarding, neg murphys
   Ext: warm dry, 2 + peripheral pulses bilat. No edema.
   Labs / Radiology
   318 K/uL
   9.7 g/dL
   104 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   8 mg/dL
   97 mEq/L
   135 mEq/L
   30.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
                             [**2192-6-24**]  06:43 PM
                             [**2192-6-25**]  04:20 AM
   WBC
   10.7
   11.1
   10.8
   Hct
   30.4
   30
   29.6
   30.3
   Plt
   286
   288
   318
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   31
   31
   32
   Glucose
   139
   127
   148
   124
   104
   Other labs: PT / PTT / INR:13.6/28.7/1.2,
   CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR [**6-24**] - no significant change from previous
   RUQ U/S [**6-25**]
 large hemangioma, small hemangioma, simple cyst all seen
   in liver.
   No biliary dilation.
   Microbiology: Blood cx x3 - Group B Strep.
   [**Last Name (un) **] to clinda, erythromycin and vanco  -- [**Last Name (un) 206**] to Pen G requested.
   Urine - neg x1
   Assessment and Plan
   [**Known firstname 203**] [**Known lastname 201**] is a 53 yo woman with h/o HTN who presents with back pain,
   SOB and fever who was found to have pneumonia on CT scan.  Patient has
   high O2 requirement but fairly stable.
   # Hypoxia:  The CTA of her chest was negative for PE, but did show
   likely PNA.  PNA is the most likely cause of her fever and hypoxia. She
   has also had significant pain and may have a significant amount of
   atelectasis from splinting.
   -repeat ABG.
   -will support resp status with oxygen -- currently mantaining SpO2 > 92
   on 6L NC; consider BiPAP if patient requiring more O2, low threshold
   for intubation
   -titrate O2 to keep sats >90%
   -fup on final CT read.
   # PNA:  Most likely cause for hypoxia and back pain.  No hx of PNA.
   -[**6-23**] & [**6-24**]  Blood cx: Group B Strept.
   - Will d/c levoquin today
   - Start Penicillin G [**2-7**] million units q4h IV  (day [**1-15**])
   -  Order PICC line for ten days of treatment
 patient
s blood cx from
   yesterday were pos.  will reculture today and plan for PICC tomorrow.
   - supplement O2
 wean as tolerated.
   # Pain: The patient's back pain is most likely r/t her pneumonia, but
   it is persistent and worrisome for some other process.   it is located
   in an area consistent with that picture and she does seem to have
   evidence of diaphragmatic irritation.  The CT was neg for Dissection.
   The pain radiates around to the RUQ -- there is some concern for a
   cholecystitis.  We were also concerned about kidney stones but her U/A
   is negative x2. Other possibilities include epidural abscess -- does
   not appear to be present on CT and no neurological deficits.
   -f-up re: final results for RUQ U/S.
   -obtain MRI to r/o epidural abscess.
   -do more complete neuro exam.
   -tylenol & hydromorphone PRN.
   # Group B strep bacteremia
 most likely source is lungs however, we
   are concerned about other possible sources so will investigate possible
   epidural abscess as well as endocarditis
   -fup TTE
   -MRI for epidural abscess
   .
   # Hypertension
 good control here.
   continue on home medications.  patient typically takes q afternoon.
   -atenolol, HCTZ, lisinopril, nifedipine
   # Anemia - chronic
   -consider adding Fe for long term management.  patient constipated
   currently so hold off for now.
   # FEN:
   -regular diet after obtaining ABG
   -low K -- replete PRN.
   # Prophylaxis: increase bowel regimen, Hep SQ, recheck glucose and
   consider ISS.
   # Access: 1 PIV - obtain PICC line once cx are neg.
   # Code Status: Full Code
   # Contact: Daughter [**Name (NI) 204**] [**Telephone/Fax (1) 205**]
   # Dispo: ICU for now.  Requiring high O2.  may require bipap/intubation
   if deteriorates
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2192-6-24**] 05:30 PM
   20 Gauge - [**2192-6-25**] 12:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-06-25 12:06:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient has had persistent hypoxemia
   7.45/45/54 on recent ABG--in setting of SaO2 >95% raising question of
   VBG sampling
   ABX to PCN and Levofloxacine
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-6-24**] 08:00 AM
   Penicillin G potassium - [**2192-6-25**] 12:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Respiratory: Tachypnea
   Gastrointestinal: Constipation
   Flowsheet Data as of  [**2192-6-25**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 77 (68 - 91) bpm
   BP: 140/75(92) {115/60(34) - 145/87(100)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,450 mL
                                                                    409 mL
   PO:
                                                                  1,110 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                  1,525 mL
   Urine:
                                                                  1,200 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                 -1,117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/45/54/31/6
   PaO2 / FiO2: 77
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Right base most prominently)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   318 K/uL
   104 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   8 mg/dL
   97 mEq/L
   135 mEq/L
   30.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
                             [**2192-6-24**]  06:43 PM
                             [**2192-6-25**]  04:20 AM
   WBC
   10.7
   11.1
   10.8
   Hct
   30.4
   30
   29.6
   30.3
   Plt
   286
   288
   318
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   31
   31
   32
   Glucose
   139
   127
   148
   124
   104
   Other labs: PT / PTT / INR:13.6/28.7/1.2, CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR [**6-24**]-
   No signficiant changes, infiltrates less impressive.
   Microbiology: BC X3 with group B Strep
   Assessment and Plan
   53 yo female admit to ICU with multifocal pneumonia and sepsis.  She
   has grown Group B Strep leading to ABX changes yesterday with
   refinement of coverage.
   Pneumonia-
   Group B strep found on cultures
   Levoflox/PCN (3 million q 4 hrs)
   F/U Sensitivities
   Hypoxemia-
   Improving as pneuonia Rx continues
   No PE seen
   Will wean O2 as possible
   gg
   ICU Care
   Nutrition: PO Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2192-6-24**] 05:30 PM
   20 Gauge - [**2192-6-25**] 12:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-06-26 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2192-6-25**] TTE: Mild symmetric left ventricular hypertrophy with preserved
   global and regional biventricular systolic function (LVEF >55%). No
   significant valvular pathology seen. No ASD/PFO seen.
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-6-24**] 08:00 AM
   Penicillin G potassium - [**2192-6-26**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-6-25**] 09:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-6-26**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 76 (65 - 92) bpm
   BP: 163/97(114) {127/71(84) - 163/114(121)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    631 mL
                                                                    113 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    391 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    325 mL
   Urine:
                                                                  1,825 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,195 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   355 K/uL
   9.6 g/dL
   85 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   98 mEq/L
   138 mEq/L
   29.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
                             [**2192-6-24**]  06:43 PM
                             [**2192-6-25**]  04:20 AM
                             [**2192-6-26**]  04:40 AM
   WBC
   10.7
   11.1
   10.8
   9.4
   Hct
   30.4
   30
   29.6
   30.3
   29.7
   Plt
   286
   288
   318
   355
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   34
   34
   31
   31
   32
   Glucose
   139
   127
   148
   124
   104
   85
   Other labs: PT / PTT / INR:12.9/26.4/1.1, CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   53 yo woman with h/o HTN who presents with back pain, SOB and fever who
   was found to have pneumonia on CT scan.  Patient has high O2
   requirement but fairly stable.
   # Hypoxia:  The CTA of her chest was negative for PE, but did show
   likely PNA.  PNA is the most likely cause of her fever and hypoxia. She
   has also had significant pain and may have a significant amount of
   atelectasis from splinting.
   -repeat ABG.
   -will support resp status with oxygen -- currently mantaining SpO2 > 92
   on 6L NC; consider BiPAP if patient requiring more O2, low threshold
   for intubation
   -titrate O2 to keep sats >90%
   -fup on final CT read.
   # PNA:  Most likely cause for hypoxia and back pain.  No hx of PNA.
   -[**6-23**] & [**6-24**]  Blood cx: Group B Strept.
   - Will d/c levoquin today
   - Start Penicillin G [**2-7**] million units q4h IV  (day [**1-15**])
   -  Order PICC line for ten days of treatment
 patient
s blood cx from
   yesterday were pos.  will reculture today and plan for PICC tomorrow.
   - supplement O2
 wean as tolerated.
   # Pain: The patient's back pain is most likely r/t her pneumonia, but
   it is persistent and worrisome for some other process.   it is located
   in an area consistent with that picture and she does seem to have
   evidence of diaphragmatic irritation.  The CT was neg for Dissection.
   The pain radiates around to the RUQ -- there is some concern for a
   cholecystitis.  We were also concerned about kidney stones but her U/A
   is negative x2. Other possibilities include epidural abscess -- does
   not appear to be present on CT and no neurological deficits.
   -f-up re: final results for RUQ U/S.
   -obtain MRI to r/o epidural abscess.
   -do more complete neuro exam.
   -tylenol & hydromorphone PRN.
   # Group B strep bacteremia
 most likely source is lungs however, we
   are concerned about other possible sources so will investigate possible
   epidural abscess as well as endocarditis
   -fup TTE
   -MRI for epidural abscess
   .
   # Hypertension
 good control here.
   continue on home medications.  patient typically takes q afternoon.
   -atenolol, HCTZ, lisinopril, nifedipine
   # Anemia - chronic
   -consider adding Fe for long term management.  patient constipated
   currently so hold off for now.
   # FEN:
   -regular diet after obtaining ABG
   -low K -- replete PRN.
   # Prophylaxis: increase bowel regimen, Hep SQ, recheck glucose and
   consider ISS.
   # Access: 1 PIV - obtain PICC line once cx are neg.
   # Code Status: Full Code
   # Contact: Daughter [**Name (NI) 204**] [**Telephone/Fax (1) 205**]
   # Dispo: ICU for now.  Requiring high O2.  may require bipap/intubation
   if deteriorates
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-6-25**] 09:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-06-26 11:55:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   TTE without evidence of vegitation
   RUQ U/S with small hemangiomata but no other pathology
   MRI completed and limited by patient tolerance
   Allergies:
   Tetracycline
   Rash;
   Robitussin (Oral) (Dm/P-Ephed/Acetaminoph/Doxylam)
   itching;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   retrograde amne
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-6-24**] 08:00 AM
   Penicillin G potassium - [**2192-6-26**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-6-25**] 09:52 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2192-6-26**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 70 (65 - 92) bpm
   BP: 160/93(109) {127/71(84) - 163/114(121)} mmHg
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    631 mL
                                                                    168 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    391 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    525 mL
   Urine:
                                                                  1,825 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,195 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   355 K/uL
   85 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   98 mEq/L
   138 mEq/L
   29.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2192-6-23**]  06:38 AM
                             [**2192-6-23**]  01:42 PM
                             [**2192-6-23**]  02:36 PM
                             [**2192-6-23**]  04:14 PM
                             [**2192-6-23**]  08:05 PM
                             [**2192-6-24**]  05:10 AM
                             [**2192-6-24**]  05:23 AM
                             [**2192-6-24**]  06:43 PM
                             [**2192-6-25**]  04:20 AM
                             [**2192-6-26**]  04:40 AM
   WBC
   10.7
   11.1
   10.8
   9.4
   Hct
   30.4
   30
   29.6
   30.3
   29.7
   Plt
   286
   288
   318
   355
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   34
   34
   31
   31
   32
   Glucose
   139
   127
   148
   124
   104
   85
   Other labs: PT / PTT / INR:12.9/26.4/1.1, CK / CKMB / Troponin-T:90//,
   ALT / AST:16/18, Alk Phos / T Bili:87/0.8, Amylase / Lipase:40/14,
   Differential-Neuts:80.0 %, Band:4.0 %, Lymph:10.0 %, Mono:4.0 %,
   Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.8 mg/dL
   Imaging: No New CXR
   Assessment and Plan
   53 yo female admit with Group B Strep Sepsis and now has had resonable
   response to antibiotic intervention.  Given the extent of infection she
   has had search for metastatic focus with MRI spine completed and
   possible endocarditis has been considered with TTE completed.
   Sepsis
rx with antibiotics to continue
               -pressors off
               -Continue with ABX at this time
              -ECHO without signfiicant valvular disease and with blood
   cultures clearing will hold on further investigation at this time.
   Hypoxemia
She has had substantial improvement with Rx for sepsis.  She
   has had intermittent desaturations which are likely related to lower
   lobe infiltrates and some atelectasis.
             -Rx for Sepsis and pulmonary infiltrates with PCN
             -OOB to chair
            -Continue with deep breaths/cough
   Back Pain
      -U/A negative
      -MRI results to follow
      -PRN pain medication to continue
   Hypertension-_Return outpatient medications
   ICU Care
   Nutrition: PO Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-6-25**] 09:04 PM
   Prophylaxis:
   DVT: OOB to chair
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent: 45